US09428502B2
Compound 248.1. 1-Benzyl-4-bromo-3-methyl-1H-pyrazole
Into a 500-mL 3-neck round-bottom flask, was placed a solution of 4-bromo-3-methyl-1H-pyrazole (20.0 g, 124 mmol) in N,N-dimethylformamide (100 mL). The system was purged with nitrogen, then the solution was cooled to 0° C. Sodium hydride (60% dispersion in mineral oil, 10.0 g, 250 mmol) was carefully added portion-wise and then the resulting mixture was stirred for 30 min at room temperature. The mixture was cooled to 0° C., then benzyl bromide (22.1 mL, 186 mmol) was added drop-wise and the resulting mixture was stirred overnight at room temperature. The mixture was carefully quenched by drop-wise addition of water (40 mL), then the mixture was extracted with ethyl acetate (3×200 mL). The combined organic extracts were washed with brine (4×100 mL), dried (Na2SO4), filleted and concentrated under reduced pressure to obtain the title compound as a yellow oil (24.9 g, 80%).

reactant | 4-bromo-3-methyl-1H-pyrazole | 124 mmol, 20.0 g | BrC=1C(=NNC1)C | C4H5BrN2
reactant | Sodium hydride | 250 mmol, 10.0 g | [H-].[Na+]
reactant | benzyl bromide | 186 mmol, 22.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-Benzyl-4-bromo-3-methyl-1H-pyrazole | 24.9 g, 80% | C(C1=CC=CC=C1)N1N=C(C(=C1)Br)C | C11H11BrN2
